US06914074B2
3-Bromo-8-chloro-6-(4-hydroxyphenyl)-2-naphthol
The title compound was prepared by reacting 3-bromo-8-chloro-6-(4-methoxyphenyl)-2-naphthol (0.24 g, 0.66 mmol) with boron tribromide (1.6 mL of 1N solution, 1.6 mmol) according to method D to yield 0.14 g (61%) of a yellow oil. The product was further purified by reverse phase preparative HPLC to yield the title compound as a white solid: mp 188-190° C.; 1H NMR (DMSO-d6): δ 6.88 (1H, d, J=8.60 Hz), 7.57 (1H, s), 7.71 (2H, d, J=8.61 Hz), 7.89 (1H, d, J=1.60 Hz), 8.02 (1H, s), 8.31 (1H, s), 9.67 (1H, s), 11.01 (1H, s); MS (ESI) m/z 347/349/351 (M−H)−.

reactant | 3-bromo-8-chloro-6-(4-methoxyphenyl)-2-naphthol | 0.66 mmol, 0.24 g | BrC=1C(=CC2=C(C=C(C=C2C1)C1=CC=C(C=C1)OC)Cl)O | C17H12BrClO2
reactant | boron tribromide | 1.6 mmol, 1N, 1.6 mL | B(Br)(Br)Br | BBr3
product | 3-Bromo-8-chloro-6-(4-hydroxyphenyl)-2-naphthol | BrC=1C(=CC2=C(C=C(C=C2C1)C1=CC=C(C=C1)O)Cl)O | C16H10BrClO2
